US06528504B2
4-Dimethylaminophenethyl tosylate (1.91 g, 6.0 mmol), sodium carbonate (750 mg, 7.0 mmol) and sodium iodide (40 mg, 0.26 mmol) were added to a solution of (R)-3-hydroxypyrrolidine (522 mg, 6.0 mmol) in acetonitrile (40 ml), and they were heated under reflux at 90° C. for 4 hours. The solvent was evaporated under reduced pressure. The obtained residue was distributed in 2 M NaOH and chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane, then with dichloromethane and methanol (50:1) and finally with a mixture of the same solvents (20:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine in the form of a light yellow oil (1.00 g, 71%).

reactant | 4-Dimethylaminophenethyl tosylate | 6.0 mmol, 1.91 g | S(=O)(=O)(OCCC1=CC=C(C=C1)N(C)C)C1=CC=C(C)C=C1 | C17H21NO3S
reactant | sodium carbonate | 7.0 mmol, 750 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.26 mmol, 40 mg | [I-].[Na+]
reactant | (R)-3-hydroxypyrrolidine | 6.0 mmol, 522 mg | O[C@H]1CNCC1 | C4H9NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (R)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine | CN(C1=CC=C(CCN2C[C@@H](CC2)O)C=C1)C | C14H22N2O
